US08420829B2
Preparation of 4-(5-Amino-1-methyl-1H-benzoimidazol-2-yl)-butyric acid methyl ester hydrochloride:
A two liter Buchi reactor was charged with 42.7 g (131.4 mmol, 1.0 equiv.) of 4-[(2,4-dinitro-phenyl)-methyl-carbamoyl]-butyric acid methyl ester, 20 g of 10% palladium on carbon (4.7% weight ratio palladium vs. starting material), and 650 mL of methanol at ambient temperature. The resulting mixture was subjected to hydrogenation at 40 psi overnight, about 18 hours. HPLC indicated that the reaction was complete in about 6-7 hours (HPLC Method B). The reaction mixture was filtered through a thin layer of Celite® 540. To the filtrate was added 11 mL of concentrated hydrochloric acid (1.0 equiv.). The resulting mixture was stirred under reflux for 3.5 hours. Approximately a half amount of solvent was removed under reduced pressure. Tert-butyl methyl ether (MTBE, 900 mL) was added with vigorous stirring. The precipitate was collected by filtration and washed with a mixture of MeOH-MTBE (1:10). The product was dried in an over at 60° C. overnight under vacuum to afford a tan solid (36.8 g, 99% yield) with a purity of 99 Area % by HPLC analysis (HPLC Method B).

reactant | 4-[(2,4-dinitro-phenyl)-methyl-carbamoyl]-butyric acid methyl ester | 131.4 mmol, 42.7 g, 1.0 equiv. | COC(CCCC(N(C)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)=O | C13H15N3O7
reactant | hydrochloric acid | 11 mL, 1.0 equiv. | Cl | ClH
catalyst | palladium on carbon | 20 g | [Pd] | Pd
solvent | methanol | 650 mL | CO | CH4O
product | 4-(5-Amino-1-methyl-1H-benzoimidazol-2-yl)-butyric acid methyl ester hydrochloride | 36.8 g, 99% yield | Cl.COC(CCCC1=NC2=C(N1C)C=CC(=C2)N)=O | InChI=1S/C13H17N3O2.ClH/c1-16-11-7-6-9(14)8-10(11)15-12(16)4-3-5-13(17)18-2;/h6-8H,3-5,14H2,1-2H3;1H
